US06294693B1
An amount of 19.6 g of maleic anhydride was dissolved into 50 g of water. Then, 21.7 g of a 70 weight % aqueous glycolic acid solution and 1.6 g of lanthanum oxide (molar ratio to maleic anhydride: 0.025) were added thereto, and the resultant reaction liquid was stirred at room temperature until it became homogeneous. After this stirring, the pH of the reaction liquid was adjusted to 8.5 with sodium hydroxide to carry out a reaction at 80° C. for 10 hours. After the end of the reaction, the same operation as of Example 1 was carried out to obtain trisodium carboxymethoxysuccinate (CMOS-3Na) with a yield of 11.8 mol % (as based on the charged maleic anhydride) in the filtrate.

reactant | maleic anhydride | 19.6 g | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | glycolic acid | C(CO)(=O)O | C2H4O3
reactant | lanthanum oxide | 1.6 g | [O-2].[La+3].[O-2].[O-2].[La+3]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 50 g | O | H2O
product | trisodium carboxymethoxysuccinate | C(=O)(O)COC(C(=O)[O-])CC(=O)[O-].[Na+].[Na+].[Na+] | InChI=1S/C6H8O7.3Na/c7-4(8)1-3(6(11)12)13-2-5(9)10;;;/h3H,1-2H2,(H,7,8)(H,9,10)(H,11,12);;;/q;3*+1/p-2
